data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_542394_0,[C:1](/[C:3](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])[N:5]([H:9])[H:10])([C:7](=[O:8])[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:3]([N:5]([H:9])[H:10])([C:7](=[O:8])[H:13])[C:4]1([C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12],62.00829500003209
MR_28381_1,[C:1]([O:7][C:2]1([O:6][N:4]([H:9])[H:10])[C:3](=[C:5]([H:14])[H:15])[O:8]1)([H:11])([H:12])[H:13]>>[C:1]([O:7][C:2]([C:3](=[C:5]([H:14])[H:15])[O:6][N:4]([H:9])[H:10])=[O:8])([H:11])([H:12])[H:13],48.36017000003381
MR_550939_2,[C:1]1([N:2]([H:8])[H:9])=[N:4][C:3]1([O:7]/[N:5]=[N:6]\[H:10])[H:11]>>[C:1](\[N:2]([H:8])[H:9])([C:3](=[O:7])[H:11])=[N:4]/[N:5]=[N:6]\[H:10],22.729932499968584
MR_568585_0,[C:1](/[C:3](=[C:2](/[O:4][H:8])[N:6]=[O:7])[O:5][H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([O:5][H:9])[C:2]([O:4][H:8])=[N:6][O:7]1)([H:10])([H:11])[H:12],31.62537249998138
MR_551514_0,[C:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[O:8])/[N:7]=[C:5](/[O:6][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[N:7]/[C:5]([C:3]([N:4]([H:10])[H:11])=[O:8])([O:6][H:9])[H:12])([H:13])([H:14])[H:15],69.5207250000054
MR_34692_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[C:4](\[O:5][H:6])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:2](=[N:3]\[H:7])[C:4]([O:5][H:6])([H:8])[H:9])([H:10])([H:11])[H:12],59.88985499999458
MR_76857_0,[C:1](=[C:2](/[N:4]([H:11])[H:12])[C:5](=[O:8])[H:13])(\[N:3]([H:9])[H:10])[N:7]=[C:6]([H:14])[H:15]>>[C:1](=[C:2](/[N:4]([H:11])[H:12])[N:7]=[C:6]([H:14])[H:15])(\[N:3]([H:9])[H:10])[C:5](=[O:8])[H:13],58.07261499998134
MR_571408_1,[C:1]([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])([N:7]([H:12])[H:13])(/[N:9]=[C:6](/[C:4]([H:20])([H:21])[H:22])[O:8][H:10])[H:11]>>[C:1](\[N:7]([H:12])[H:13])(=[N:9]\[C:6]([C:4]([H:20])([H:21])[H:22])([N:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])[O:8][H:10])[H:11],43.57611000002052
MR_362593_1,[C:1]([N:4]([C:5](/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:8]/[C:2]([H:16])([H:17])[H:18])=[N:9]/[H:12])[N:7]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:4]([C@:6]1([C:3]([H:19])([H:20])[H:21])/[C:5](=[N:9]/[H:12])[N:8]1[C:2]([H:16])([H:17])[H:18])[N:7]([H:10])[H:11])([H:13])([H:14])[H:15],72.65069500002156
MR_697436_0,[C:1]([C:2]([H:15])([H:16])[H:17])([N:6]([H:12])[H:13])([O:8]/[C:4]([N:5]([H:10])[H:11])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:14])[H:9]>>[C:1]1([C:2]([H:15])([H:16])[H:17])([H:9])[C:4]([N:5]([H:10])[H:11])([C:7]([C:3]([H:18])([H:19])[H:20])([N:6]([H:12])[H:13])[H:14])[O:8]1,72.30870749995759
MR_450332_1,[C:1]1(/[C:5]([C:4]([H:17])([H:18])[H:19])=[C:7](/[N:6]([H:11])[H:12])[H:13])([H:9])[C:2]([C:3]([H:14])([H:15])[H:16])([H:10])[O:8]1>>[C@@:1]1(/[C:5]([C:4]([H:17])([H:18])[H:19])=[C:7](/[N:6]([H:11])[H:12])[H:13])([H:9])[C@@:2]([C:3]([H:14])([H:15])[H:16])([H:10])[O:8]1,57.44448749999776
MR_405993_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([O:5][O:7][C:2]([H:10])([H:11])[H:12])[O:6][O:8][H:9]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([O:5][O:6][O:8][H:9])[O:7][C:2]([H:10])([H:11])[H:12],57.16085750000048
MR_381496_1,[C@:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:6](/[O:8][H:11])[H:13])([O:7][H:10])[H:12]>>[C:1](=[C:5](/[C:3]([H:17])([H:18])[H:19])[C@@:6]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([O:8][H:11])[H:13])(\[O:7][H:10])[H:12],62.69791749996742
MR_117935_1,[C:1]([C:4]([H:16])([H:17])[H:18])([C:5]([H:15])([H:19])[H:20])([C:7]([C:2]([C:3](=[C:6]([H:22])[H:23])[H:13])([H:11])[H:12])([N:8]([H:10])[H:21])[H:14])[H:9]>>[C:1]([C:4]([H:16])([H:17])[H:18])([C:5]([H:15])([H:19])[H:20])(/[C:7]([C:2]([C:3]([C:6]([H:21])([H:22])[H:23])([H:13])[H:14])([H:11])[H:12])=[N:8]\[H:10])[H:9],70.71862250001288
MR_190048_2,[C:1]([O:2][H:6])([N:3][C:5][N:4][H:7])([H:8])[H:9]>>[C:1]([O:2][H:6])(/[N:3]=[C:5](/[N:4][H:7])[H:9])[H:8],62.493352500020194
MR_253745_0,[C:1]([C:4]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([O:7][H:9])[H:10])(=[O:5])[O:6][H:8]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4](=[O:7])[H:10])([O:5][H:9])[O:6][H:8],53.90476000001741
MR_156321_2,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([C:6]([N:5]([C:2]([H:15])([H:16])[H:17])[H:11])([N:8]([H:13])[H:14])/[N:9]=[N:7]/[H:12])[H:10]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([C:6]1([N:8]([H:13])[H:14])[N:5]([C:2]([H:15])([H:16])[H:17])[N:9]1[N:7]([H:11])[H:12])[H:10],57.557437499997945
MR_69914_0,[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:6](/[N:4]([H:10])[H:11])[H:15])([C:5](=[O:7])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:2]([N:3]([H:8])[H:9])([C:5](=[O:7])[H:12])[C:6]1([N:4]([H:10])[H:11])[H:15],63.856282500003374
MR_351639_1,[C:1](/[C:4](=[C:3](\[N:2]([C:7](=[O:8])[H:14])[H:9])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C@:4](/[C:3](=[N:2]\[H:9])[N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[C:7](=[O:8])[H:14])([H:15])([H:16])[H:17],46.08422750000159
